US08017611B2
The tert-butyl 4-[4-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]pyrazol-1-yl]piperidine-1-carboxylate used as starting material was prepared as follows: 3-aminopyrazine-2-carboxylic acid (5 g) and 2-amino-5-fluoro-phenol (5.94 g) were dissolved in DMF (30 ml). Triethylamine (5.81 g) and HATU (19.13 g) were added to the solution. The resulting mixture was stirred at room temperature for 24 hours, diluted with ethyl acetate (100 ml) and washed with brine (3×20 ml). The organic layer was dried over sodium sulfate. The precipitate was collected, recrystallized in ethanol and further purified by chromatography on silica gel (hexane/ethyl acetate/Methanol) to give 3-amino-N-(4-fluoro-2-hydroxy-phenyl)pyrazine-2-carboxamide (6 g). NMR Spectrum: (400 MHz, DMSOd6) 10.8 (s, 1H), 10.2 (s, 1H), 8.30 (m, 2H), 7.80 (s, 1H), 7.50 (br, 2H), 6.60 (m, 2H). Mass spectrum: M+H+ 249.

reactant | tert-butyl 4-[4-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]pyrazol-1-yl]piperidine-1-carboxylate | NC=1N=CC(=NC1C=1OC2=C(N1)C=CC(=C2)F)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C24H26FN7O3
reactant | 3-aminopyrazine-2-carboxylic acid | 5 g | NC=1C(=NC=CN1)C(=O)O | C5H5N3O2
reactant | 2-amino-5-fluoro-phenol | 5.94 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | HATU | 19.13 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 5.81 g | C(C)N(CC)CC | C6H15N
product | 3-amino-N-(4-fluoro-2-hydroxy-phenyl)pyrazine-2-carboxamide | 6 g | NC=1C(=NC=CN1)C(=O)NC1=C(C=C(C=C1)F)O | C11H9FN4O2
